US09388161B2
A mixture of 2-bromo-1H-imidazole (1.2 g, 8.16 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (3.0 g, 9.70 mmol), sodium carbonate (2.1 g, 19.8 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.120 g, 0.16 mmol) in 1,4-dioxane (30 mL) and water (10 mL) stirred overnight at 100° C. The reaction mixture was cooled to room temperature, poured into ethyl acetate (100 mL), washed with water (30 mL) and brine (30 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 25% ethyl acetate-petroleum ether) to afford tert-butyl 4-(1H-imidazol-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.300 g, 15%) as a light yellow solid. MS (ESI, pos. ion) m/z 250 [M+H]+.

reactant | 2-bromo-1H-imidazole | 8.16 mmol, 1.2 g | BrC=1NC=CN1 | C3H3BrN2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 9.70 mmol, 3.0 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 19.8 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.16 mmol, 0.120 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | tert-butyl 4-(1H-imidazol-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.300 g, 15% | N1C(=NC=C1)C1=CCN(CC1)C(=O)OC(C)(C)C | C13H19N3O2
